US08183351B2
Va-6 Methyl (3,4-dimethyl-5-oxo-4,5-dihydro-1H-1,2,4-triazol-1-yl)acetate
1222 mg of potassium carbonate are added to a solution of 500 mg of 4,5-dimethyl-2,4-dihydro-3H-1,2,4-triazol-3-one in 15 ml of acetonitrile, and the mixture is warmed to 50° C. After addition of 879 mg of methyl bromoacetate, the mixture is heated at reflux for 16 hours. The mixture is concentrated under reduced pressure, the residue is taken up in dichloromethane, washed with diluted hydrochloric acid (pH 2) and dried over sodium sulphate, and the solvent is removed under reduced pressure. This gives 593 mg of methyl (3,4-dimethyl-5-oxo-4,5-dihydro-1H-1,2,4-triazol-1-yl)acetate (Va-6) in a purity of 93% (LCMS).

reactant | potassium carbonate | 1222 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4,5-dimethyl-2,4-dihydro-3H-1,2,4-triazol-3-one | 500 mg | CN1C(NN=C1C)=O | C4H7N3O
reactant | methyl bromoacetate | 879 mg | BrCC(=O)OC | C3H5BrO2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | Methyl (3,4-dimethyl-5-oxo-4,5-dihydro-1H-1,2,4-triazol-1-yl)acetate | CC1=NN(C(N1C)=O)CC(=O)OC | C7H11N3O3
